US09403839B2
Piperidin-4-one hydrochloride hydrate (29.2 g, 190 mmol) was dissolved in an aqueous solution of sodium hydroxide (95 mL of 2.0 M, 190 mmol). The resulting clear solution was then stirred under nitrogen in an ice water bath. 4-isopropoxy-3-methoxy-benzoyl chloride (43.5 g, 190 mmol) was dissolved in toluene (90 mL) to provide a final volume of 100 mL. This solution was added dropwise in 2 mL portions followed by addition of 1 mL of an aqueous sodium hydroxide (48 mL of 4.0 M, 192 mmol) solution. This process was repeated until both reagents were completely added. When complete, the reaction mixture was allowed to stir at 0° C. for an additional 30 minutes. To the mixture was added CH2Cl2 (250 mL) followed by water (200 mL). The mixture was mixed well in a separatory funnel, and the aqueous layer was further extracted with CH2Cl2 (2×100 mL). Organic layers were combined, dried over sodium sulfate, filtered and concentrated under reduced pressure to provide a dark brown oil. Purification was performed by column chromatography to provide 1-(4-isopropoxy-3-methoxy-benzoyl)piperidin-4-one (16.56 g) as a clear light brown oil that crystallized to a slightly tan white solid upon standing. 1H NMR (400 MHz, CDCl3) δ 7.06 (d, J=1.9 Hz, 1H), 7.02 (dd, J=8.2, 2.0 Hz, 1H), 6.90 (d, J=8.3 Hz, 1H), 4.59 (dt, J=12.2, 6.1 Hz, 1H), 3.90-3.88 (br s, 4H), 3.88 (s, 3H), 2.51 (s, 4H), 1.40 (d, J=6.1 Hz, 6H). ESI-MS m/z calc. 291.15, found 292.0 (M+1)+; Retention time: 0.94 minutes (3 minute run).

reactant | Piperidin-4-one hydrochloride hydrate | 190 mmol, 29.2 g | O.Cl.N1CCC(CC1)=O
reactant | sodium hydroxide | 190 mmol, 2.0 M, 95 mL | [OH-].[Na+]
reactant | 4-isopropoxy-3-methoxy-benzoyl chloride | 190 mmol, 43.5 g | C(C)(C)OC1=C(C=C(C(=O)Cl)C=C1)OC | C11H13ClO3
reactant | sodium hydroxide | 192 mmol, 4.0 M, 1 mL | [OH-].[Na+]
reactant | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | 90 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 200 mL | O | H2O
product | 1-(4-isopropoxy-3-methoxy-benzoyl)piperidin-4-one | 16.56 g | C(C)(C)OC1=C(C=C(C(=O)N2CCC(CC2)=O)C=C1)OC | C16H21NO4
